US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-iodo-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.9) (0.43 g, 1.07 mmol) and commercially available 2-chloro-4-iodo-pyridine [CAS No. 153034-86-7] (263 mg, 1.1 mmol) according to the general procedure IVc protocol a. Obtained as an off-white solid (0.20 g, 48%). MS (ISP) 386.0 [(M+H)+]; mp 143.5° C.

reactant | 2-iodo-4-difluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 1.07 mmol, 0.43 g | IC1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H6F5IN2
reactant | 2-chloro-4-iodo-pyridine | ClC1=NC=CC(=C1)I | C5H3ClIN
product | 2-(2-Chloro-pyridin-4-yl)-4-difluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)F)C1=CC=C(C=C1)C(F)(F)F | C17H9ClF5N3
